US05093364
A mixture of 7-fluoro-1H-3,1-benzoxazine-2,4-dione (13.5 g) and sodium methoxide (0.2 g) in methanol (30 ml), was heated on a steam bath until vigorous bubbling ceased. It was then heated under reflux for 31/2 hours, cooled, added to aqueous sodium bicarbonate (10%; 300 ml) and extracted with ethyl acetate. The extract was washed with water dried and evaporated to give methyl 4-fluoroanthranilate, mp 68°-70°. (Compound 8).

reactant | 7-fluoro-1H-3,1-benzoxazine-2,4-dione | 13.5 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | sodium methoxide | 0.2 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | methyl 4-fluoroanthranilate | FC=1C=C(C(C(=O)OC)=CC1)N | C8H8FNO2
